US04642365
In 5 ml of methylene chloride was dissolved 0.195 g of 5-mercapto-1-methyl-1H-tetrazole and the solution was cooled to -10° C. Then, a solution of 0.268 g of o-phenylene phosphorochloridate in 5 ml of methylene chloride was added and, under cooling at -20° to -25° C., a solution of 1.170 g of diphenylmethyl 7β-(5-diphenylmethyloxycarbonyl-5-phthalimidovaleramido)-3-hydroxymethyl-3-cephem-4-carboxylate in 8 ml of methylene chloride was added dropwise. The mixture was stirred at the same temperature for 20 minutes. To the reaction mixture was added 10 ml of water and, then, the mixture was allowed to stand at room temperature for phase separation. The organic layer was washed with water, dried over anhydrous sodium sulfate, concentrated and poured into 80 ml of ether. The powdery precipitate was collected by filtration and subjected to silica gel column chromatography (silica gel: 30 g, column height: 36 cm), elution being carried out with ethyl acetate-n-hexane (4:1). The fractions were checked by TLC (developing solvent: the same as the above eluent) and the fractions (Rf : about 0.71) containing the desired product were collected and concentrated. To the concentrate was added ether to give diphenylmethyl 7β-(5-diphenylmethyloxycarbonyl-5-phthalimidovaleramido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate.

reactant | 5-mercapto-1-methyl-1H-tetrazole | 0.195 g | SC1=NN=NN1C | C2H4N4S
reactant | o-phenylene phosphorochloridate | 0.268 g | P1(OC2=C(C=CC=C2)O1)(=O)Cl | C6H4ClO3P
reactant | diphenylmethyl 7β-(5-diphenylmethyloxycarbonyl-5-phthalimidovaleramido)-3-hydroxymethyl-3-cephem-4-carboxylate | 1.170 g | C1(=CC=CC=C1)C(OC(=O)C(CCCC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C48H41N3O9S
reactant | water | 10 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7β-(5-diphenylmethyloxycarbonyl-5-phthalimidovaleramido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | C1(=CC=CC=C1)C(OC(=O)C(CCCC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C50H43N7O8S2
